US06624114B1
(Preparation of the Catalyst According to the Invention for the Synthesis of Phthalic Anhydride)
For the preparation of the catalysts, 11.3 g of V2O5, 70.8 g of TiO2 (BET 8 m2/g), 17.7 g of TiO2 (BET 200 m2/g) and 0.2 g of cesium (as CsCO3) were suspended in 400 ml of demineralized water and stirred for 18 hours to obtain a homogeneous distribution. 1.5 g of organic binder, consisting of a copolymer of vinyl acetate and vinyl laurate in the form of a 50% strength by weight aqueous dispersion, were added to this suspension. The suspension obtained was then sprayed onto 1203 g of steatite rings, having in each case two notches in the upper side and two notches in the lower side, and was dried. The notches were offset by 90 degrees relative to one another. The rings had dimensions of 7×7×4 mm and the notch width was 1.4 mm and the notch depth 2 mm.

reactant | cesium | 0.2 g | [Cs] | Cs
reactant | vinyl acetate | C(C)(=O)OC=C | C4H6O2
reactant | vinyl laurate | C(CCCCCCCCCCC)(=O)OC=C | C14H26O2
solvent | water | 400 ml | O | H2O
product | Phthalic Anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
